US08809376B2
Step 2: trifluoro-methanesulfonic acid 4-bromo-1-oxo-indan-5-yl ester
Trifluoromethanesulfonic anhydride (4.0 mL) is added dropwise to a solution of 4-bromo-5-hydroxy-indan-1-one (5.0 g) and 2,6-dimethylpyridine (5.1 mL) in dichloromethane (50 mL) cooled to 0° C. The cooling bath is removed and the mixture is stirred for 2 h at room temperature. The solution is partitioned between saturated aqueous NH4Cl solution and dichloromethane. The organic phase is separated, washed with brine, dried (MgSO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 99:1→50:50) to give the title compound. LC (method 2): tR=1.08 min; Mass spectrum (ESI+): m/z=359/361 (Br) [M+H]+.

reactant | Trifluoromethanesulfonic anhydride | 4.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-bromo-5-hydroxy-indan-1-one | 5.0 g | BrC1=C2CCC(C2=CC=C1O)=O | C9H7BrO2
reactant | 2,6-dimethylpyridine | 5.1 mL | CC1=NC(=CC=C1)C | C7H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-bromo-1-oxo-indan-5-yl ester | BrC1=C2CCC(C2=CC=C1OS(=O)(=O)C(F)(F)F)=O | C10H6BrF3O4S
